US04584014
Ethyl beta-chloroethylideneaminooxyacetate
A dry 25 ml two-necked round bottom flask was equipped with a stirring bar, addition funnel, reflux condenser and nitrogen bubbler. The flask was charged with absolute ethanol (9.2 gm, 200 mmoles) and the addition funnel charged with thionyl chloride (4.3 gm, 36 mmoles). The flask and its contents were cooled to about 0° C. The thionyl chloride was added dropwise while maintaining the flask temperature at 5° C. or below. After the addition was completed, the resulting mixture was stirred for 1 hour at 0° C. Beta-chloroethylideneaminooxyacetic acid (2.7 gm, 18 mmoles) was added in one portion. The resulting mixture was allowed to warm to room temperature during 1 hour. The flask was warmed to 40°-45° C. and maintained for 4 hours. The resulting mixture was cooled, then solvents were removed in vacuo. The residue was taken up in ethyl acetate which was extracted with an aqueous solution of sodium bicarbonate. The ethyl acetate layer was dried over magnesium sulfate, filtered, then taken to "dryness" in vacuo. A brown oil (2.1 gm) was obtained. Distillation at 0.5 mm Hg gave the desired product as a clear oil (2.0 gm), b.p. 60°-70° C.

reactant | ethanol | 200 mmoles, 9.2 gm | C(C)O | C2H6O
reactant | thionyl chloride | 36 mmoles, 4.3 gm | S(=O)(Cl)Cl | Cl2OS
reactant | Beta-chloroethylideneaminooxyacetic acid | 18 mmoles, 2.7 gm | ClCC=NOCC(=O)O | C4H6ClNO3
product | Ethyl beta-chloroethylideneaminooxyacetate | 2.1 gm | ClCC=NOCC(=O)OCC | C6H10ClNO3
